US08030337B2
N-[2-(2-Isopropyl-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethyl]acetamide
N-{3-[2-(Acetylamino)ethyl]-4-hydroxy-2,3-dihydro-1H-inden-5-yl}-2-methylpropanamide (118 mg, 0.369 mmol) and pyridinium p-toluenesulfonate (18.5 mg, 0.074 mmol) were heated under reflux in xylene (3.7 mL) for 5 hr. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (methanol/ethyl acetate=0/100→10/90) to give the title compound (60 mg, yield 57%).

reactant | N-{3-[2-(Acetylamino)ethyl]-4-hydroxy-2,3-dihydro-1H-inden-5-yl}-2-methylpropanamide | 0.369 mmol, 118 mg | C(C)(=O)NCCC1CCC2=CC=C(C(=C12)O)NC(C(C)C)=O | C17H24N2O3
reactant | pyridinium p-toluenesulfonate | 0.074 mmol, 18.5 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | xylene | 3.7 mL | C=1(C(=CC=CC1)C)C | C8H10
product | N-[2-(2-Isopropyl-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethyl]acetamide | 60 mg, yield 57% | C(C)(C)C=1OC2=C(N1)C=CC=1CCC(C12)CCNC(C)=O | C17H22N2O2
